US09447046B2
Preparation 80a: 6-bromo-1,2,3,4-tetrahydronaphthalen-1-ol
To a solution of 6-bromo-1,2,3,4-tetrahydronaphthalen-1-one (2.0 g, 8.9 mmol) in EtOH (20 mL) was added NaBH4 (1.6 g, 42.7 mmol) at rt, and the reaction was stirred for 30 min. The reaction was diluted with water (10 mL) and extracted with EtOAc (3×50 mL). Organics were washed with brine (50 mL), dried (Na2SO4) and concentrated to give 1.9 g (94%) of the title compound as a brown oil. [M+H] calc'd for C10H11BrO2, 227, 229. found 227, 229.

reactant | 6-bromo-1,2,3,4-tetrahydronaphthalen-1-one | 8.9 mmol, 2.0 g | BrC=1C=C2CCCC(C2=CC1)=O | C10H9BrO
reactant | NaBH4 | 42.7 mmol, 1.6 g | [BH4-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | water | 10 mL | O | H2O
product | 6-bromo-1,2,3,4-tetrahydronaphthalen-1-ol | 1.9 g, 94% | BrC=1C=C2CCCC(C2=CC1)O | C10H11BrO
